US08975252B2
1-Hydroxybenzotriazole (162 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (288 mg) were added successively to a solution of N-{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}cyclopropanamine (a compound of Reference Example 127(2), 405 mg) and (2R)-4-(tert-butoxycarbonyl)morpholin-2-carboxylic acid (231 mg) in N,N-dimethylformamide (12.5 ml) and the mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate, washed with water, a saturated aqueous solution of sodium bicarbonate and saturated brine successively and dried over magnesium sulfate. The solvent was evaporated in vacuo and the resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=50/50 to 10/90) to give tert-butyl(2R)-2-{[{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate (581 mg) as a colorless oil.

reactant | 1-Hydroxybenzotriazole | 162 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 288 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}cyclopropanamine | BrC=1C=C2C(=CN(C2=CC1)CCCOC)CNC1CC1 | C16H21BrN2O
reactant | (2R)-4-(tert-butoxycarbonyl)morpholin-2-carboxylic acid | 231 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)O | C10H17NO5
solvent | N,N-dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl(2R)-2-{[{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate | 581 mg | BrC=1C=C2C(=CN(C2=CC1)CCCOC)CN(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1 | C26H36BrN3O5
